US08067457B2
To a solution of benzyl rel-(3R,4R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate (1 g, 2.97 mmol) in dry THF (10 mL) at 0° C. was added NaH (475 mg, 11.88 mmol). The reaction mixture was stirred at 0° C. for 1 h. Allyl bromide (1.08 g, 8.92 mmol) was added to the reaction mixture dropwise. The reaction mixture was stirred at 0° C. for 2 h and room temperature for 1 h. The reaction was quenched by adding MeOH (5 mL) and was concentrated under reduced pressure to remove most of the solvent. Then water (15 mL) was added to the reaction mixture. EtOAc (15 mL×3) was added to extract the product. The organic phases were combined, dried over MgSO4, filtered, concentrated and subjected to column chromatography (EtOAc:hexanes, 1:3 to 1:1) as the eluent to give benzyl rel-(3R,4R)-3-(allyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate (806.2 mg, 72%).

reactant | benzyl rel-(3R,4R)-3-[(tert-butoxycarbonyl)amino]-4-hydroxypyrrolidine-1-carboxylate | 2.97 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC=CC=C1 | C17H24N2O5
reactant | NaH | 11.88 mmol, 475 mg | [H-].[Na+]
reactant | Allyl bromide | 8.92 mmol, 1.08 g | C(C=C)Br | C3H5Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzyl rel-(3R,4R)-3-(allyloxy)-4-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate | 806.2 mg, 72% | C(C=C)O[C@@H]1CN(C[C@H]1NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C20H28N2O5
